US04116956
2-Hydrazino-7-nitro-5-phenyl-3H-1,4-benzodiazepine prepared from 5.6 parts of 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine in a similar manner to Example 7, is dissolved in a mixture of 20 parts by volume of ethyl orthoformate and 100 parts by volume of chloroform, followed by the addition of 10 parts of p-toluenesulfonic acid. The whole mixture is left standing at room temperature for 1 hour with occasional shaking. After completion of the reaction, the solution is washed with a saturated aqueous solution of sodium bicarbonate, then with water, and dried over sodium sulfate. After evaporation of the solvent, the residue is treated with ethyl acetate, whereby 8-nitro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine is yielded as crystals. Recrystallization from tetrahydrofuran yields pale yellow needles melting at 271° C to 272° C.

reactant | 2-Hydrazino-7-nitro-5-phenyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-] | C15H13N5O2
reactant | 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-] | C15H12N4O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl orthoformate | C(OCC)([O-])[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-nitro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11N5O2
